US07402595B2
2-(4-tert-butoxycarbonylbenzyl)-6-[4-(5-methyl-3-phenylisoxazol-4-yl)pyrimidin-2-ylamino]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To toluene (6 ml) were added palladium(II) acetate (4.1 mg) and rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (34 mg) at room temperature and the mixture was stirred for 5 min. under a nitrogen stream. To the reaction mixture were added 6-bromo-2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (300 mg) and 4-(5-methyl-3-phenylisoxazol-4-yl)pyrimidin-2-ylamine (200 mg) at room temperature and the mixture was stirred for 10 min. under a nitrogen stream. Further, sodium tert-butoxide (70 mg) was added to the reaction mixture at room temperature, and the mixture was heated under reflux under a nitrogen atmosphere for 12 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with water, saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane-hexane:ethyl acetate=1:1), followed by recrystallization (ethyl acetate-hexane) to give the title compound (240 mg).

reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 34 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 6-bromo-2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C29H26BrNO5
reactant | 4-(5-methyl-3-phenylisoxazol-4-yl)pyrimidin-2-ylamine | 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NC(=NC=C1)N | C14H12N4O
reactant | sodium tert-butoxide | 70 mg | CC(C)([O-])C.[Na+]
catalyst | palladium(II) acetate | 4.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-tert-butoxycarbonylbenzyl)-6-[4-(5-methyl-3-phenylisoxazol-4-yl)pyrimidin-2-ylamino]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 240 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)NC1=NC=CC(=N1)C=1C(=NOC1C)C1=CC=CC=C1)=O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C43H37N5O6
